US04956360
2-(3-Ethoxycarbonyloxy-4-methoxystyryl)-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine (13.2 g) was added to a solution of 1N ammonia in methanol (600 ml), and and the whole was stirred for 3 hrs. at room temperature. The solvent was distilled off under reduced pressure and the residue was purified by a column chromatography on silica gel to give 2-(3-hydroxy-4-methoxystyryl)-5,6,7, 8-tetrahydro-4H-thiazolo [5,4-b]azepine (yield 8.74 g, 81.9%). The product (1.50 g) was converted into its hydrochloride which was recrystallized from a mixture of methanol and ethyl ether to give the title compound (0.49 g, 29.0%). m.p. 210°-211°.

reactant | 2-(3-Ethoxycarbonyloxy-4-methoxystyryl)-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine | 13.2 g | C(C)OC(=O)OC=1C=C(C=CC=2SC=3NCCCCC3N2)C=CC1OC | C19H22N2O4S
reactant | ammonia | 1N | N | H3N
solvent | methanol | 600 ml | CO | CH4O
product | 2-(3-hydroxy-4-methoxystyryl)-5,6,7, 8-tetrahydro-4H-thiazolo [5,4-b]azepine | yield 8.74 g, 81.9% | OC=1C=C(C=CC=2SC=3NCCCCC3N2)C=CC1OC | C16H18N2O2S
